US07618990B2
4-[2-(2-imino-4,4-dimethyl-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile
A mixture of 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (2.00 g, 7.31 mmol), prepared in the same manner as described in step 3 of Example 52, and replacing 3-(2-bromoacetyl)benzonitrile with 4-(2-bromoacetyl)benzonitrile, and C-(di-imidazol-1-yl)-methyleneamine (1.30 g, 8.07 mmol) in 35 mL of tetrahydrofuran was refluxed under nitrogen for three days. The reaction was concentrated under reduced pressure to remove the tetrahydrofuran. The residue was partitioned between methylene chloride and water. The organic layer was separated, dried (MgSO4), filtered and the solvent removed under reduced pressure. Purification of the residue on a Horizon™ Flash Collector (the Biotage FLASH 40+™ cartridge) using a linear gradient of hexane in methylene chloride as the eluent gave the title compound (417.2 mg, 19%) as an off-white solid, mp 158-161° C.; MS (ES) m/z 299.0 [M+H]+. Anal. Calcd for C15H14N4OS: C, 60.38; H, 4.73; N, 18.78. Found: C, 60.38; H, 4.82; N, 18.67.

reactant | 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 7.31 mmol, 2.00 g | OCC(C)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H15N3OS
reactant | 4-(2-bromoacetyl)benzonitrile | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | C-(di-imidazol-1-yl)-methyleneamine | 8.07 mmol, 1.30 g | C1=CN(C=N1)C(=N)N2C=CN=C2 | C7H7N5
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 4-[2-(2-imino-4,4-dimethyl-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile | 417.2 mg, 19% | N=C1OCC(N1C=1SC=C(N1)C1=CC=C(C#N)C=C1)(C)C | C15H14N4OS
